US05264454
A mixture of ethyl 4-(2-methylphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g][1]benzopyran-3-carboxylate (5.0 g), concentrated hydrochloric acid (13 ml) and acetic acid (25 ml) was refluxed for 12 hours. To this reaction mixture was added water, whereupon 4-(2-methylphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g][1]benzopyran-3-carboxylic acid was obtained as crystals (4.5 g, 97.8%). Recrystallization from acetone-hexane gave colorless prisms, mp 213°-214° C.

reactant | ethyl 4-(2-methylphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g][1]benzopyran-3-carboxylate | 5.0 g | CC1=C(C=CC=C1)C1=C(C(OC2=C1C=C1C(=C2)CCC1)=O)C(=O)OCC | C22H20O4
reactant | hydrochloric acid | 13 ml | Cl | ClH
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-(2-methylphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g][1]benzopyran-3-carboxylic acid | CC1=C(C=CC=C1)C1=C(C(OC2=C1C=C1C(=C2)CCC1)=O)C(=O)O | C20H16O4
